US05496947
Preparation of 1-(3-fluoro-4-pyridyl)-6-fluoro-7-(3-acetamido-1-pyrrolidinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
0.22 g of 1-(3-fluoro-4-pyridyl)-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3carboxylic acid and 0.11 g of 3-acetamidopyrrolidine are added to 12 ml of pyridine, and added with 0.13 ml of 1,8-diazabicyclo[5.4.0]undec-7-ene. The mixture is stirred at room temperature for 24 hours, and then concentrated under a reduced pressure to remove the solvent completely. The residue is added with 20 ml of acetone and stirred at room temperature for 1 hour to obtain a product, which is then filtered and dried and used in the next reaction. (next reaction: Example 5)

reactant | 1-(3-fluoro-4-pyridyl)-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3carboxylic acid | 0.22 g | FC=1C=NC=CC1N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C15H7F3N2O3
reactant | 3-acetamidopyrrolidine | 0.11 g | C(C)(=O)NC1CNCC1 | C6H12N2O
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.13 ml | N12CCCCCC2=NCCC1 | C9H16N2
solvent | pyridine | 12 ml | N1=CC=CC=C1 | C5H5N
product | 1-(3-fluoro-4-pyridyl)-6-fluoro-7-(3-acetamido-1-pyrrolidinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | FC=1C=NC=CC1N1C=C(C(C2=CC(=C(C=C12)N1CC(CC1)NC(C)=O)F)=O)C(=O)O | C21H18F2N4O4
